US03953604
A mixture of 1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-o-cresyloxypropane (10.0 g), ethyl alcohol (5 ml), benzene (100 ml) and concentrated sulphuric acid (5 drops) were heated together under a Dean and Stark trap for 18 hours. After cooling, the solution was washed successively with sodium bicarbonate solution and water. Removal of the benzene afforded a viscous oil nucleated with crystals. Recrystallization of the crude product from aqueous dioxane gave 1-(2-carbethoxychromon-5-yloxy)-2-hydroxy-3-o-cresyloxypropane (8.75 g), m.p. 75°-76° C.

reactant | 1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-o-cresyloxypropane | 10.0 g | C(=O)(O)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=C(C=CC=C1)C)O | C20H18O7
reactant | ethyl alcohol | 5 ml | C(C)O | C2H6O
catalyst | sulphuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-(2-carbethoxychromon-5-yloxy)-2-hydroxy-3-o-cresyloxypropane | 8.75 g | C(=O)(OCC)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=C(C=CC=C1)C)O | C22H22O7
